US05314887
Part B: 2-[(4-Chlorobutyl)thio]benzaldehyde:
To a 5 liter 4-neck round-bottom flask fitted with mechanical stirrer, thermowell and addition funnel, under a nitrogen atmosphere, was added 78.4 ml of oxalyl chloride and 925 ml of dichloromethane. The reaction was cooled to -78° C. with a dry ice/acetone bath. Then 125.3 ml of distilled dimethylsulfoxide was added dropwise, maintaining the reaction temperature below -65° C. After the addition was complete, 138.4 g of 2-[(4-chlorobutyl)thio]benzyl alcohol was added in 300 ml of dichloromethane. After addition was complete, the mixture was stirred for 30 min., then 417.3 ml of triethylamine was added. The bath was allowed to warm gradually to room temperature and stirred overnight at this temperature. The reaction mixture was poured into a 12 liter flask containing a stirring mixture of 3100 g of crushed ice and 4730 ml of 1N HCl. After stirring for 30 min., the mixture was extracted with dichloromethane (3×300 ml) the organic solution was dried over magnesium sulfate, filtered and concentrated to a brown oil. The product was further purified by column chromatography on silica gel, eluting with 10% ethyl acetate in hexane to give 117.7 g of the pure product as an oil. 1H-NMR (CDCl3) δ 1.8-2.0(m,4H); 3.0(t,2H); 3.6(t,2H); 7.2-7.6(m,3H); 7.8(m,1H); 10.4(s,1H).

reactant | oxalyl chloride | 78.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 125.3 ml | CS(=O)C | C2H6OS
reactant | 2-[(4-chlorobutyl)thio]benzyl alcohol | 138.4 g | ClCCCCSC1=C(CO)C=CC=C1 | C11H15ClOS
reactant | HCl | 1N, 4730 ml | Cl | ClH
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 925 ml | ClCCl | CH2Cl2
solvent | triethylamine | 417.3 ml | C(C)N(CC)CC | C6H15N
product | 2-[(4-Chlorobutyl)thio]benzaldehyde | 117.7 g | ClCCCCSC1=C(C=O)C=CC=C1 | C11H13ClOS
